US08648202B2
9-Decenyl bis(pentafluoroethyl)phosphinite
0.31 g (1.9 mmol) of 9-decen-1-ol is initially introduced in CH2Cl2 with excess K2CO3, and 0.64 g (2.1 mmol) of bis(pentafluoroethyl)phosphinous acid chloride, (C2F5)2PCl, is condensed in. After the mixture has been stirred at room temperature for 30 minutes, the precipitate is filtered off, and volatile substances are removed in vacuo. The product, 9-decenyl bis(pentafluoroethyl)phosphinite, remains as a colourless, oily liquid, which is characterised by spectroscopy.

reactant | 9-decen-1-ol | 1.9 mmol, 0.31 g | C(CCCCCCCC=C)O | C10H20O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | bis(pentafluoroethyl)phosphinous acid chloride | 2.1 mmol, 0.64 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)Cl | C4ClF10P
reactant | (C2F5)2PCl | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)Cl | C4ClF10P
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 9-Decenyl bis(pentafluoroethyl)phosphinite | FC(C(F)(F)F)(F)P(OCCCCCCCCC=C)C(C(F)(F)F)(F)F | C14H19F10OP
